US04141893
2-(3-methoxyphenyl)-2-(2-cyanoethyl)-6-diazocyclohexanone
Similarly prepared was 2-phenyl-2-(2-cyanoethyl)-6-diazocyclohexanone from 2-phenyl-2-(2-cyanoethyl)-6-formylcyclohexanone.

reactant | 2-phenyl-2-(2-cyanoethyl)-6-diazocyclohexanone | C1(=CC=CC=C1)C1(C(C(CCC1)=[N+]=[N-])=O)CCC#N | C15H15N3O
reactant | 2-phenyl-2-(2-cyanoethyl)-6-formylcyclohexanone | C1(=CC=CC=C1)C1(C(C(CCC1)C=O)=O)CCC#N | C16H17NO2
product | 2-(3-methoxyphenyl)-2-(2-cyanoethyl)-6-diazocyclohexanone | COC=1C=C(C=CC1)C1(C(C(CCC1)=[N+]=[N-])=O)CCC#N | C16H17N3O2
